US04788055
10 g dextromethorphan hydrobromide and 60 g of the dry resin (calculated on a moisture free basis) are dispersed in deionized water and stirred at 50° C. for about 24 hours to obtain essentially total binding of dextromethorphan to the resin. Residual free dextromethorphan is checked at intervals with a UV-spectrophotometer. At the end point, residual free drug was found to be negligible. The resinate is filtered and dried to constant weight at 50° C. under vacuum to yield resinate #1.

reactant | dextromethorphan hydrobromide | 10 g | CN1CC[C@@]23CCCC[C@@H]2[C@@H]1CC4=C3C=C(C=C4)OC.O.Br
solvent | water | O | H2O
product | dextromethorphan | CN1CC[C@@]23CCCC[C@@H]2[C@@H]1CC4=C3C=C(C=C4)OC | C18H25NO
